US06335360B1
1-[N-t-Butoxycarbonyl-2-(S)-aminobutyryl]-4,5-dichloroindoline-2-(R/S)-carboxylic acid butyl amide
This compound was prepared from 1-(N-t-butoxycarbonyl-2-(S)-aminobutyryl)-4,5-dichloroindoline-2-(R/S)-carboxylic acid as described in Example 1, using butylamine instead of trifluoroethylamine hydrochloride.

reactant | 1-(N-t-butoxycarbonyl-2-(S)-aminobutyryl)-4,5-dichloroindoline-2-(R/S)-carboxylic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1C(CC2=C(C(=CC=C12)Cl)Cl)C(=O)O)CC | C18H22Cl2N2O5
reactant | butylamine | C(CCC)N | C4H11N
product | 1-[N-t-Butoxycarbonyl-2-(S)-aminobutyryl]-4,5-dichloroindoline-2-(R/S)-carboxylic acid butyl amide | C(CCC)NC(=O)C1N(C2=CC=C(C(=C2C1)Cl)Cl)C([C@H](CC)NC(=O)OC(C)(C)C)=O | C22H31Cl2N3O4
